US04085225
5-Ethoxy-4'-trifluoromethylvalerophenone O-(2-aminoethyl) oxime fumarate (1:1).
24.7 Mmol (1.00 ml) of methanol and 3 ml of tetrahydrofuran (THF) were added to 7.8 mmol (0.3 g) of LiAlH4 in 10 ml of THF while stirring and cooling in ice water for 3 minutes. A solution of 1.15 mmol of 5-ethoxy-4'-trifluoromethylvalerophenone O-(cyanomethyl) oxime was then added while stirring and cooling for ten minutes. After stirring the reaction mixture at 5° C for another 3 hours it was decomposed with 1.0 ml of water. The formed hydroxides were sucked off, washed with chloroform and the filtrate was evaporated to dryness in vacuo. The resulting base was dissolved in absolute ethanol and an equimolar quantity of fumaric acid was added. The mixture was heated until a clear solution was obtained. The solvent was removed, the residue was taken up in ethanol/acetonitrile 1:1. The title compound crystallized. Melting point 150°-150.5° C.

reactant | methanol | 24.7 Mmol, 1.00 ml | CO | CH4O
reactant | LiAlH4 | 7.8 mmol, 0.3 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 5-ethoxy-4'-trifluoromethylvalerophenone O-(cyanomethyl) oxime | 1.15 mmol | C(#N)CON=C(CCCCOCC)C1=CC=C(C=C1)C(F)(F)F | C16H19F3N2O2
reactant | water | 1.0 ml | O | H2O
reactant | THF | 10 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 5-Ethoxy-4'-trifluoromethylvalerophenone O-(2-aminoethyl) oxime fumarate | C(\C=C\C(=O)O)(=O)O.NCCON=C(CCCCOCC)C1=CC=C(C=C1)C(F)(F)F | InChI=1S/C16H23F3N2O2.C4H4O4/c1-2-22-11-4-3-5-15(21-23-12-10-20)13-6-8-14(9-7-13)16(17,18)19;5-3(6)1-2-4(7)8/h6-9H,2-5,10-12,20H2,1H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
